US04415572
To a mixture of 1.2 g of 5-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium carbonate and 20 ml of dimethyl sulfoxide was added 650 mg of 4-aminobenzyl chloride and the mixture was stirred at 80° C. for 2.5 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water, the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography. After conversion to hydrochloric acid salt with methanol-hydrochloric acid, the product was recrystallized from methanol-ether to give 0.4 g of 5-[4-(4-aminobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride monohydrate, m.p. 224°-227° C. (decomp.), yellow granules.

reactant | 5-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
reactant | 4-aminobenzyl chloride | 650 mg | NC1=CC=C(CCl)C=C1 | C7H8ClN
solvent | water | O | H2O
product | 5-[4-(4-aminobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril dihydrochloride monohydrate | 0.4 g | O.Cl.Cl.NC1=CC=C(CN2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=C1 | InChI=1S/C20H24N4O.2ClH.H2O/c21-16-6-4-15(5-7-16)14-23-10-12-24(13-11-23)19-3-1-2-18-17(19)8-9-20(25)22-18;;;/h1-7H,8-14,21H2,(H,22,25);2*1H;1H2
